US04267185
1-Methyl-4-(1-methylpyrrol-2-yl)-4-piperidinol
A 1.6 M solution of n-butyllithium in hexane (175 ml) was added dropwise at room temperature to a solution of 24.2 g of N-methylpyrrole in 250 ml of diethyl ether contained in a reaction flask (under a nitrogen blanket). After addition was completed, the resulting mixture was heated at reflux with stirring for 16 hours, then cooled to 0° C. 34 Grams of 1-methyl-4-piperidone was added dropwise from a dropping funnel with the temperature maintained at 0° C. during the addition by cooling the reaction flask with dry ice-acetone bath. The reaction mixture was stirred at room temperature for 3 hours, and then quenched in ice water to yield 26 g of the title compound in a crystalline form; recrystallization from heptane gave white prisms, m.p. 123°-123.5°.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methylpyrrole | 24.2 g | CN1C=CC=C1 | C5H7N
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | hexane | 175 ml | CCCCCC | C6H14
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 1-Methyl-4-(1-methylpyrrol-2-yl)-4-piperidinol | 26 g | CN1CCC(CC1)(O)C=1N(C=CC1)C | C11H18N2O
